US05596097
(2-N-tert-butoxycarbonylaminoethyl)hydrazine is prepared by reaction of N-t-butoxycarbonyl-2-chloro-ethylamine with hydrazine following a procedure adapted from J. Med. Chem. 7, 493, (1964). Under a nitrogen atmosphere a solution of (2-N-tert-butoxycarbonylaminoethyl)hydrazine (9.2 g) in anhydrous THF (10 mL) is added during 30' to the stirred 9:1 mixture of 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione and 9-chloro-6-(p-toluenesulfonyloxy)benzo [g]isoquinoline-5,10-dione of Preparative Example 15b (3.0 g) in THF (25 mL) containing N,N-diisopropylethylamine (1.38 mL). A slightly exothermic reaction ensues, and the reaction temperature increases from 21° C. to 24° C. After stirring for one hour at room temperature the obtained precipitate is recovered by suction, washed with THF/n-hexane 1/1 (15 mL) and dried at 40° C. under vacuum, to give 2-[2-(N-tert-butoxycarbonylamino)ethyl[-5-(p-toluenesulfonyloxy)iso-quino[8,7,6-cd]indazole-6(2H)-one (1.33 g).

reactant | N-t-butoxycarbonyl-2-chloro-ethylamine | C(C)(C)(C)OC(=O)NCCCl | C7H14ClNO2
reactant | hydrazine | NN | H4N2
reactant | 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12FNO5S
reactant | 9-chloro-6-(p-toluenesulfonyloxy)benzo [g]isoquinoline-5,10-dione | ClC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12ClNO5S
reactant | N,N-diisopropylethylamine | 1.38 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-(p-toluenesulfonyloxy)iso-quino[8,7,6-cd]indazole-6(2H)-one | 1.33 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=C2C=3C(=NNC3C=C1)C=1C=NC=CC1C2=O)C | C20H13N3O4S
